US06831106B1
f) 1-{3′-[3,4-Bis-(tert-butyldimethylsilanyloxymethyl)benzyloxy]-2-methylbiphenyl-4-yl}-2,2-dimethyl-1-propanol
2 g (3 mmol) of 3′-[3,4-bis-(tert-butyldimethylsilanyloxymethyl)benzyloxy]-4-bromo-2-methylbiphenyl are dissolved in 30 mL of anhydrous THF and the mixture is cooled to −78° C. 1.4 mL (3.5 mmol) of 2.5 M butyllithium are added slowly and the mixture is maintained at −78° C. for 1 hour. 400 mL (3.7 mmol) of 2,2-dimethylpropionaldehyde are added dropwise and the medium is warmed slowly to room temperature and then treated according to the usual treatment. The desired product is obtained in the form of a colourless oil (m=2 g; Y=100%).

reactant | 3′-[3,4-bis-(tert-butyldimethylsilanyloxymethyl)benzyloxy]-4-bromo-2-methylbiphenyl | 3 mmol, 2 g | [Si](C)(C)(C(C)(C)C)OCC=1C=C(COC=2C=C(C=CC2)C2=C(C=C(C=C2)Br)C)C=CC1CO[Si](C)(C)C(C)(C)C | C34H49BrO3Si2
reactant | butyllithium | 3.5 mmol, 2.5 M, 1.4 mL | C(CCC)[Li]
reactant | 2,2-dimethylpropionaldehyde | 3.7 mmol, 400 mL | CC(C=O)(C)C | C5H10O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 1-{3′-[3,4-Bis-(tert-butyldimethylsilanyloxymethyl)benzyloxy]-2-methylbiphenyl-4-yl}-2,2-dimethyl-1-propanol | [Si](C)(C)(C(C)(C)C)OCC=1C=C(COC=2C=C(C=CC2)C2=C(C=C(C=C2)C(C(C)(C)C)O)C)C=CC1CO[Si](C)(C)C(C)(C)C | C39H60O4Si2
